US07351719B2
140a) 1-(2-chloro-4-nitro-benzyl)-pyrrolidine
10.50 g (74.452 mmol) potassium carbonate was added to a solution of 7.400 g (29.543 mmol) of 1-bromomethyl-2-chloro-4-nitro-benzene and 5.00 mL (59.300 mmol) pyrrolidine in 150 mL acetonitrile and the mixture was stirred for 16 h at RT. The reaction mixture was diluted with 200 mL dichloromethane, filtered and the filtrate evaporated down i. vac. The residue was taken up in EtOAc, the org. phase was washed with water, dried over magnesium sulphate and evaporated down i. vac. The crude product was used in the next reaction step without any further purification.

reactant | potassium carbonate | 74.452 mmol, 10.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromomethyl-2-chloro-4-nitro-benzene | 29.543 mmol, 7.400 g | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | pyrrolidine | 59.300 mmol, 5.00 mL | N1CCCC1 | C4H9N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(2-chloro-4-nitro-benzyl)-pyrrolidine | ClC1=C(CN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C11H13ClN2O2
